US07435828B2
Preparation of rac-4-(2,3-dihydroxy-propoxy)-benzaldehyde
To a solution of 4-allyloxybenzaldehyde (1.0 g, 6.17 mmol) in acetone (40 mL) and water (5 mL) is added a 2.5% solution of OsO4 in tert. butanol (1.25 mL) followed by N-methyl morpholine-N-oxide (867 mg, 7.4 mmol). The pale yellow solution is stirred at rt for 6 h, diluted with EA (250 mL) and washed with 10% aq. citric acid solution (100 mL) and water (2×100 mL). The washings are extracted with EA (150 mL). The combined organic extracts are concentrated and purified by column chromatography on silica gel to give the title compound (731 mg) as a turbid oil. The title compound reversibly polymerizes upon standing. LC-MS: tR=0.58 min, [M+1+CH3CN]+=238.

reactant | 4-allyloxybenzaldehyde | 6.17 mmol, 1.0 g | C(C=C)OC1=CC=C(C=O)C=C1 | C10H10O2
reactant | N-methyl morpholine-N-oxide | 7.4 mmol, 867 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | acetone | 40 mL | CC(=O)C | C3H6O
solvent | water | 5 mL | O | H2O
solvent | tert. butanol | 1.25 mL | C(C)(C)(C)O | C4H10O
solvent | EA | 250 mL | CC(OCC)=O | C4H8O2
catalyst | OsO4 | O=[Os](=O)(=O)=O
product | rac-4-(2,3-dihydroxy-propoxy)-benzaldehyde | 731 mg | OC(COC1=CC=C(C=O)C=C1)CO | C10H12O4
